US08808703B2
Step 3: (5R,9R)-1-(9H-fluoren-9-yl)-9-(hexadecyloxy)-3-oxo-2,11-dioxa-7-thia-4-azaheptacosane-5-carboxylic acid
A solution of (5R,9R)-tert-butyl 1-(9H-fluoren-9-yl)-9-(hexadecyloxy)-3-oxo-2,11-dioxa-7-thia-4-azaheptacosane-5-carboxylate in 40% TFA in DCM (0.3 M) was stirred at room temperature until complete deprotection of tert-butyl group (2 hours). The reaction mixture was diluted in MTBE, washed three times with 1 M citric acid (pH 3), and once with 1:2 HCl (3 M)/brine. The organic layer was dried over anhydrous Na2SO4 and concentrated en vaccuo. The resulting waxy solid was used in the next step without further purification.

reactant | (5R,9R)-tert-butyl 1-(9H-fluoren-9-yl)-9-(hexadecyloxy)-3-oxo-2,11-dioxa-7-thia-4-azaheptacosane-5-carboxylate | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(N[C@@H](CSC[C@@H](COCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCC)C(=O)OC(C)(C)C)=O | C57H95NO6S
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 0.3 M | C(Cl)Cl | CH2Cl2
solvent | MTBE | CC(C)(C)OC | C5H12O
product | (5R,9R)-1-(9H-fluoren-9-yl)-9-(hexadecyloxy)-3-oxo-2,11-dioxa-7-thia-4-azaheptacosane-5-carboxylic acid | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(N[C@@H](CSC[C@@H](COCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCC)C(=O)O)=O | C53H87NO6S
